US06998491B2
In a 500-ml flask equipped with a stirrer, a thermometer and a dropping funnel, 100 g (277.43 mmol) of 4-dodecyloxycarbonylphthalic anhydride, 21.21 g (305.17 mmol) of hydroxylamine hydrochloride and 250 g of pyridine were placed and were stirred at room temperature in an atmosphere of nitrogen gas for 30 minutes, followed by stirring at 90° C. for further 3 hours. The resulting reaction mixture was added dropwise to 3000 g of pure water over 30 minutes with stirring and thereby yielded a crystal of 4-dodecyloxycarbonyl-N-hydroxyphthalimide. The mixture was stirred for further 1 hour, the precipitate was separated by filtration and was rinsed with pure water. The resulting solid was stirred and rinsed in a solvent mixture of 640 g of n-hexane and 160 g of ethyl acetate for 3 hours, the resulting slurry was filtrated, was rinsed with n-hexane, was dried at 60° C. under reduced pressure and thereby yielded 90.88 g (242.04 mmol) of target 4-dodecyloxycarbonyl-N-hydroxyphthalimide as a white powder. The yield was 87.2% on the basis of 4-dodecyloxycarbonylphthalic anhydride.

reactant | 4-dodecyloxycarbonylphthalic anhydride | 277.43 mmol, 100 g | C(CCCCCCCCCCC)OC(=O)C=1C=C2C(C(=O)OC2=O)=CC1 | C21H28O5
reactant | hydroxylamine hydrochloride | 305.17 mmol, 21.21 g | Cl.NO
reactant | pyridine | 250 g | N1=CC=CC=C1 | C5H5N
solvent | water | 3000 g | O | H2O
product | 4-dodecyloxycarbonyl-N-hydroxyphthalimide | C(CCCCCCCCCCC)OC(=O)C=1C=C2C(C(=O)N(C2=O)O)=CC1 | C21H29NO5
